US04460596
5.0 g of N-[(2-thienylcarbonyl)methyl]amine hydrochloride, 10.0 g of sodium bicarbonate and 4.78 g of 4-chlorobenzoyl chloride are treated in the same manner as described in Preparation 1-(3). 7.6 g of N-(4-chlorobenzoyl)-N-[(2-thienylcarbonyl)methyl]amine are thereby obtained.

reactant | N-[(2-thienylcarbonyl)methyl]amine hydrochloride | 5.0 g | Cl.S1C(=CC=C1)C(=O)CN
reactant | sodium bicarbonate | 10.0 g | C([O-])(O)=O.[Na+]
reactant | 4-chlorobenzoyl chloride | 4.78 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
product | N-(4-chlorobenzoyl)-N-[(2-thienylcarbonyl)methyl]amine | 7.6 g, Yield: 97% | ClC1=CC=C(C(=O)NCC(=O)C=2SC=CC2)C=C1 | C13H10ClNO2S
